### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Enriched/Limits): add transport lemmas along isomorphism of functors and equivalence of shapes

### PR DESCRIPTION
**Pull request by joneugster**
Co-authored-by: Emily Riehl [eriehl@jhu.edu](mailto:eriehl@jhu.edu)
Co-authored-by: Dagur Asgeirsson [dagurtomas@gmail.com](mailto:dagurtomas@gmail.com)

---

- [x] depends on: #22916

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean [hunk 1]
```diff
@@ -85,18 +86,47 @@ end Definitions
...
 example (F : J ⥤ C) [HasConicalLimit V F] : HasLimit F := inferInstance
 
+/-- If a functor `F` has a conical limit, so does any naturally isomorphic functor. -/
+lemma HasConicalLimit.of_iso {F G : J ⥤ C} [HasConicalLimit V F] (e : F ≅ G) :
+    HasConicalLimit V G where
+  toHasLimit := hasLimit_of_iso e
+  preservesLimit_eCoyoneda X := preservesLimit_of_iso_diagram (eCoyoneda V X) e
+
+instance HasConicalLimit.of_equiv (F : J ⥤ C) [HasConicalLimit V F] (e : J' ≌ J) :
+    HasConicalLimit V (e.functor ⋙ F) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean:103]: In the statement, `e.functor` should be replaced by a functor `F` such that `F.IsEquivalence`.

Comment (joneugster) [reply Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean]: done

File: Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean [hunk 2]
```diff
@@ -85,18 +86,48 @@ end Definitions
...
+  preservesLimit_eCoyoneda X := preservesLimit_of_iso_diagram (eCoyoneda V X) e
+
+instance HasConicalLimit.of_equiv (F : J ⥤ C) [HasConicalLimit V F]
+    (G : J' ⥤ J) [G.IsEquivalence] : HasConicalLimit V (G ⋙ F) where
+  exists_limit :=
+    let cone : Cone (G ⋙ F) := Cone.whisker G (getLimitCone F).cone
+    have isLimit : IsLimit cone :=
+      IsLimit.whiskerEquivalence (getLimitCone F).isLimit G.asEquivalence
+    ⟨cone, isLimit⟩
+  preservesLimit_eCoyoneda _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean:109]: The proofs are found automatically:
```suggestion
```

File: Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean [hunk 3]
```diff
@@ -85,18 +86,48 @@ end Definitions
...
+/-- If a `G ⋙ F` has a limit, and `G` is an equivalence, we can construct a limit of `F`. -/
+lemma HasConicalLimit.of_equiv_comp (F : J ⥤ C) (G : J' ⥤ J) [G.IsEquivalence]
+    [HasConicalLimit V (G ⋙ F)] : HasConicalLimit V F :=
+  have e : G.inv ⋙ G ⋙ F ≅ F := G.asEquivalence.invFunIdAssoc F
+  HasConicalLimit.of_iso V e
+
+variable (C)
+
+variable (J) in
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean:120]:
```suggestion
```

File: Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean [hunk 4]
```diff
@@ -85,18 +86,48 @@ end Definitions
...
 /-- existence of conical limits (of shape) implies existence of limits (of shape) -/
 instance HasConicalLimitsOfShape.hasLimitsOfShape [HasConicalLimitsOfShape J V C] :
     HasLimitsOfShape J C where
   has_limit _ := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean:124]:
```suggestion
```

File: Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean [hunk 5]
```diff
@@ -85,22 +84,43 @@ end Definitions
...
+  toHasLimit := hasLimit_of_iso e
+  preservesLimit_eCoyoneda X := preservesLimit_of_iso_diagram (eCoyoneda V X) e
+
+instance HasConicalLimit.of_equiv (F : J ⥤ C) [HasConicalLimit V F]
+    (G : J' ⥤ J) [G.IsEquivalence] : HasConicalLimit V (G ⋙ F) where
+
+/-- If a `G ⋙ F` has a limit, and `G` is an equivalence, we can construct a limit of `F`. -/
+lemma HasConicalLimit.of_equiv_comp (F : J ⥤ C) (G : J' ⥤ J) [G.IsEquivalence]
+    [HasConicalLimit V (G ⋙ F)] : HasConicalLimit V F :=
+  have e : G.inv ⋙ G ⋙ F ≅ F := G.asEquivalence.invFunIdAssoc F
```
Comment (joneugster) [inline Mathlib/CategoryTheory/Enriched/Limits/HasConicalLimits.lean:106]: I was wondering if `G.asEquivalence.invFunIdAssoc` is the canonical way or if there is a shorter term for `G.inv ⋙ G ⋙ F ≅ F`?

**Comment by joelriou** [comment]
Thanks!

bors merge
